US06498159B1
4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-[4-hydroxy-4-(hydroxymethyl)piperidino]phthalazine Hydrochloride
The resulting 4-(hydroxymethyl)-4-piperidinol hydrochloride was reacted with 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine in the same manner as in Example 4 to give the title compound.

reactant | 4-(hydroxymethyl)-4-piperidinol hydrochloride | Cl.OCC1(CCNCC1)O
reactant | 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl | C17H12Cl2N4O
product | 4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-[4-hydroxy-4-(hydroxymethyl)piperidino]phthalazine Hydrochloride | Cl.ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)N2CCC(CC2)(CO)O)C=CC1OC | InChI=1S/C23H24ClN5O3.ClH/c1-32-20-5-3-16(11-19(20)24)13-26-21-18-10-15(12-25)2-4-17(18)22(28-27-21)29-8-6-23(31,14-30)7-9-29;/h2-5,10-11,30-31H,6-9,13-14H2,1H3,(H,26,27);1H
